US09238640B2
To the solution of tert-butyl 4-oxopiperidine-1-carboxylate (5.0 g, 25.09 mmol) in methanol (35 mL) was added isopropylamine (1.07 mL, 12.54 mmol), acetic acid (0.94 mL, 16.30 mmol) and sodium cyanoborohydride (1.0 g, 16.30 mmol). The resulting solution was stirred at room temperature for 1 hour, then quenched with water. The solution was concentrated in vacuo and redissolved in ethyl ether. The organics were extracted with 0.1 N HCl. The aqueous extracts were basified with 1 N NaOH (pH>8) and extracted with ethyl ether. The organic extracts were dried over anhydrous Na2SO4, filtered, and concentrated in vacuo, to afford tert-butyl 4-(isopropylamino)piperidine-1-carboxylate (1.2 g, 41%) as a clear liquid.

reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 25.09 mmol, 5.0 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | isopropylamine | 12.54 mmol, 1.07 mL | C(C)(C)N | C3H9N
reactant | acetic acid | 16.30 mmol, 0.94 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 16.30 mmol, 1.0 g | C(#N)[BH3-].[Na+]
solvent | methanol | 35 mL | CO | CH4O
product | tert-butyl 4-(isopropylamino)piperidine-1-carboxylate | 1.2 g, 41% | C(C)(C)NC1CCN(CC1)C(=O)OC(C)(C)C | C13H26N2O2
